US05374637
A solution of 15.7 parts of cis-4-amino-5-chloro-N-[1-(cyanomethyl)-3-methoxy-4piperidinyl]-2,3-dihydro-7-benzofurancarboxamide in 178 parts of tetrahydrofuran and 158 parts of methanol was hydrogenated at normal pressure and at room temperature with 6 parts of Raney nickel. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was purified by column chromatography (silica gel; CH2Cl2 /CH3OH(NH3) 93:7). The eluent of the desired fraction was evaporated and the residue was crystallized from acetonitrile (to which a few drops of water were added). The product was filtered off at 0° C. and dried in vacuo at 40° C., yielding 8.5 parts (53.6%) of cis-4-amino-N-[1-(2-aminoethyl)-3methoxy-4-piperidinyl]-5-chloro-2,3-dihydro-7-benzofurancarboxamide (comp. 35).

reactant | cis-4-amino-5-chloro-N-[1-(cyanomethyl)-3-methoxy-4piperidinyl]-2,3-dihydro-7-benzofurancarboxamide | NC1=C(C=C(C2=C1CCO2)C(=O)N[C@@H]2[C@@H](CN(CC2)CC#N)OC)Cl | C17H21ClN4O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | cis-4-amino-N-[1-(2-aminoethyl)-3methoxy-4-piperidinyl]-5-chloro-2,3-dihydro-7-benzofurancarboxamide | 53.6% | NC1=C(C=C(C2=C1CCO2)C(=O)N[C@@H]2[C@@H](CN(CC2)CCN)OC)Cl | C17H25ClN4O3
